US06706725B1
g) 1-[5-(3,4-bis-Hydroxymethyl-phenoxymethyl)-2-thienyl]-1-propanone
8 g (22.8 mmol) of {5-[5-(2-ethyl-[1,3]dioxolan-2-yl)-2-thienylmethoxy]-2-hydroxymethylphenyl}methanol are dissolved in 75 mL of water and 75 mL of acetone. 1 g of para-toluenesulphonic acid is then added and the reaction medium is refluxed for 1 hour. The reaction medium is treated with sodium bicarbonate solution and extracted with ethyl acetate. The organic phases are combined, washed with water, dried and concentrated under reduced pressure. A white powder (m.p.=123° C.) is obtained (m=6.9 g; Y=100%).

reactant | {5-[5-(2-ethyl-[1,3]dioxolan-2-yl)-2-thienylmethoxy]-2-hydroxymethylphenyl}methanol | 22.8 mmol, 8 g | C(C)C1(OCCO1)C1=CC=C(S1)COC=1C=CC(=C(C1)CO)CO | C18H22O5S
reactant | para-toluenesulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 75 mL | O | H2O
solvent | acetone | 75 mL | CC(=O)C | C3H6O
product | 1-[5-(3,4-bis-Hydroxymethyl-phenoxymethyl)-2-thienyl]-1-propanone | OCC=1C=C(OCC2=CC=C(S2)C(CC)=O)C=CC1CO | C16H18O4S
